US07135480B2
3-Cyano-1-(4-pyrrolidin-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline
1-(4-Pyrrolidin-1-yl-phenacyl)-quinolinium bromide: A stirred solution of 2-bromo-1-(4-pyrrolidin-1-yl-phenyl)-ethanone (689 mg, 2.57 mmol), quinoline (250 μL, 2.11 mmol) and acetonitrile (5.0 mL) was refluxed at 96° C. for 7 h under argon. The solution was equilibrated to room temperature and the precipitate was filtered on a Buchner funnel. The solid was dried in vacuo to yield 812 mg (96%) of the title compound. 1H NMR (DMSO-d6): 9.49 (d, J=4.67 Hz, 1H), 9.42 (d, J=8.25 Hz, 1H), 8.54 (d, J=8.24 Hz, 1H), 8.30 (m, 2H), 8.22 (td, J=7.92, 1.31 Hz, 1H), 8.06 (t, J=7.41 Hz, 1H), 7.96 (d, J=8.79 Hz, 2H), 6.84 (s, 2H), 6.72 (d, J=9.07 Hz, 2H), 3.40 (t, J=6.31 Hz, 4H), 2.02 (t, J=6.46 Hz, 4H).

reactant | 1-(4-Pyrrolidin-1-yl-phenacyl)-quinolinium bromide | [Br-].N1(CCCC1)C1=CC=C(C(C[N+]2=CC=CC3=CC=CC=C23)=O)C=C1
reactant | 2-bromo-1-(4-pyrrolidin-1-yl-phenyl)-ethanone | 2.57 mmol, 689 mg | BrCC(=O)C1=CC=C(C=C1)N1CCCC1 | C12H14BrNO
reactant | quinoline | 2.11 mmol, 250 μL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 3-Cyano-1-(4-pyrrolidin-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline | 812 mg, 96% | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N2CCCC2)=O | C24H19N3O
